US08957203B2
A solution of 6-fluoro-4-methoxyisoquinolin-1-ol (2.9 g, 15.01 mmol) in POCl3 (10 ml, 107 mmol) was refluxed for 4 h. The reaction mixture was concentrated. The residue was dissolved in DCM and the pH was adjusted to 7 with 4N NaOH. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 50% DCM in Hexanes as eluent. The product fractions were collected and the solvent removed under vacuum to give 1-chloro-6-fluoro-4-methoxyisoquinoline (2.2 g, 67% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.29 (dd, J=9.2, 5.4 Hz, 1H), 7.84-7.79 (m, 2H), 7.45 (ddd, J=9.3, 8.2, 2.6 Hz, 1H), 4.06 (s, 3H); MS m/z 212.0 (M++1).

reactant | 6-fluoro-4-methoxyisoquinolin-1-ol | 15.01 mmol, 2.9 g | FC=1C=C2C(=CN=C(C2=CC1)O)OC | C10H8FNO2
reactant | POCl3 | 107 mmol, 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-fluoro-4-methoxyisoquinoline | 2.2 g, 67% yield | ClC1=NC=C(C2=CC(=CC=C12)F)OC | C10H7ClFNO
